Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right face and arm weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with 
a history of mild cognitive impairment, ___ disease, 
hypertension, and gait unsteadiness with walker dependence, who 
presented with a one-day history of right face and arm weakness.

On ___, patient woke up between 7:30 AM and 8 AM feeling in 
her usual state of health. While eating breakfast around 9 AM, 
she felt that she had difficulty using her right arm.  She felt 
that her right arm was both weak and shaky.  She did not notice 
that food was dripping out of her mouth while eating.  She 
denied having any difficulties with understanding or expressing 
speech.  When she went to stand up from the table, she felt like 
she was going to fall with her walker, but had difficulty 
describing why exactly this was the case when probed further.  
She was initially assessed by staff, where she was found to have 
musculoskeletal shoulder pain, even some discomfort with passive 
range of movement.  However, when reassessed later in the day at 
approximately 4:45 ___, the right arm seemed weaker and she had 
increased blood pressure to 178/82.
She otherwise was felt to be at her baseline.  Staff discussed 
this with her daughter, who sent her to ___ 
emergency department for further evaluation.

On arrival to ___ emergency department, 
patient reported that the right arm felt "shaky," but otherwise 
felt like her usual self.  Her daughter notes that she is at her 
baseline cognitively, apart from the mild right arm weakness and 
possible facial droop.

Patient and daughter denied any recent illness, fever/chills, 
recent medication changes, or any recent stressors.
 
On neuro ROS, the patient reported mild right arm weakness and 
difficulty ambulating.  She denied headache, loss of vision, 
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty, 
difficulties producing or comprehending speech, focal weakness, 
numbness, parasthesiae, and bowel or bladder incontinence or 
retention. 
 
On general review of systems, the patient denied recent fever or 
chills.  No night sweats or recent weight loss or gain. Denied 
cough, shortness of breath, chest pain or tightness, 
palpitations. Denied nausea, vomiting, diarrhea, constipation or 
abdominal pain.  No recent change in bowel or bladder habits.  
No dysuria.  Denied arthralgias or myalgias. Denied rash.
 
Past Medical History:
___ disease
Hypertension
Hyperlipidemia
Mild cognitive impairment
Chronic walker dependence
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T 98.5F, HR 72, BP 170/76, RR 18, O2 99% RA 

General: Awake, elderly, frail woman, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, place, and situation.
Not oriented to year or month. Able to relate basic history
without difficulty but not more detailed history. Mildly
inattentive. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name high frequency objects, does not name some
low frequency objects (calls 'cactus' a 'plant,', calls 
'hammock'
'between two trees.'.  Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
 V: Facial sensation intact to light touch.
VII: Right lower facial droop at rest, activates fairly
symmetrically  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. Bilateral arm postural
tremor. Mild cogwheeling bilaterally. Right arm pronator drift. 
No asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5      5
R  4    ___   4-  5   5    5    5    5      5

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred (walker dependent and no walker readily 
available
at this time) 

DISCHARGE EXAM:
===============

Vitals: T 98.5, BP 168 / 94, HR 69, RR 20, O2 sat 97% on RA 
General: Awake, elderly, frail woman, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-tender, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self and situation. Thought 
she was at the ___. Able to identify 
that she was in a hospital when given options for locations, 
i.e. grocery store, hospital. Knew that it was ___ and 
"20-something." Able to name months of the year backwards. 
Language is fluent with intact repetition for "Today is a sunny 
day in ___ but not "No ifs ands or buts." Intact 
comprehension. Normal prosody. No dysarthria. There were no 
paraphasic errors. Patient was able to name high frequency 
objects and low frequency objects (cactus, hammock, glove, 
chair). Able to read without difficulty. Able to follow both 
midline and appendicular commands. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without 
nystagmus or diplopia. Normal saccades. Restricted horizontal 
upgaze.
V: Facial sensation intact to light touch.
VII: Right lower facial droop at rest, activates fairly 
symmetrically.  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength 
full with tongue-in-cheek testing.

-Motor: Normal bulk throughout. Increased tone bilaterally. 
Bilateral arm postural tremor.  No asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5      5
R  4+   4+  4+  ___   5    5    5    5      5

-Sensory: No deficits to light touch, pinprick, proprioception 
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was withdrawal bilaterally.

-Coordination: Postural tremor. No dysmetria on FNF or HKS 
bilaterally.

-Gait: Deferred (walker dependent and no walker readily 
available at this time) 
 
Pertinent Results:
LAB:
___ 06:45PM BLOOD WBC-6.3 RBC-4.27 Hgb-12.9 Hct-38.1 MCV-89 
MCH-30.2 MCHC-33.9 RDW-13.1 RDWSD-42.6 Plt ___
___ 05:05AM BLOOD WBC-6.5 RBC-4.15 Hgb-12.4 Hct-37.1 MCV-89 
MCH-29.9 MCHC-33.4 RDW-12.8 RDWSD-42.1 Plt ___
___ 05:10AM BLOOD WBC-6.7 RBC-4.12 Hgb-12.3 Hct-37.2 MCV-90 
MCH-29.9 MCHC-33.1 RDW-13.1 RDWSD-43.3 Plt ___
___ 06:45PM BLOOD Neuts-56.3 ___ Monos-14.1* 
Eos-1.9 Baso-0.3 Im ___ AbsNeut-3.53 AbsLymp-1.70 
AbsMono-0.88* AbsEos-0.12 AbsBaso-0.02
___ 05:05AM BLOOD Neuts-62.8 ___ Monos-15.0* 
Eos-2.3 Baso-0.2 Im ___ AbsNeut-4.10 AbsLymp-1.27 
AbsMono-0.98* AbsEos-0.15 AbsBaso-0.01
___ 06:45PM BLOOD ___ PTT-31.5 ___
___ 05:05AM BLOOD ___ PTT-30.1 ___
___ 06:45PM BLOOD Glucose-90 UreaN-15 Creat-0.7 Na-130* 
K-4.6 Cl-90* HCO3-23 AnGap-17
___ 05:05AM BLOOD Glucose-77 UreaN-10 Creat-0.5 Na-134* 
K-4.1 Cl-95* HCO3-28 AnGap-11
___ 05:10AM BLOOD Glucose-87 UreaN-24* Creat-0.8 Na-136 
K-4.7 Cl-97 HCO3-27 AnGap-12
___ 06:45PM BLOOD ALT-<5 AST-22 AlkPhos-57 TotBili-0.4
___ 05:05AM BLOOD ALT-10 AST-18 LD(LDH)-165 AlkPhos-53 
TotBili-0.5
___ 06:45PM BLOOD Albumin-4.2 Calcium-9.7 Phos-2.9 Mg-2.0 
Cholest-239*
___ 05:05AM BLOOD Albumin-4.0 Calcium-9.7 Phos-3.1 Mg-2.0 
Cholest-215*
___ 05:10AM BLOOD Calcium-9.5 Phos-3.1 Mg-2.0
___ 02:49AM BLOOD %HbA1c-5.5 eAG-111
___ 05:05AM BLOOD %HbA1c-5.6 eAG-114
___ 06:45PM BLOOD Triglyc-56 HDL-88 CHOL/HD-2.7 
LDLcalc-140*
___ 05:05AM BLOOD Triglyc-43 HDL-81 CHOL/HD-2.7 LDLcalc-125
___ 05:05AM BLOOD TSH-4.9*
___ 05:10AM BLOOD TSH-4.7*
___ 05:10AM BLOOD Free T4-1.1
___ 06:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICRO:
___ 6:45 pm URINE      SOURCE: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING/STUDIES:

CTA HEAD/NECK ___:
FINDINGS:  
CT HEAD: 
There is no evidence for acute intracranial hemorrhage, vascular 
territorial infarction, mass effect, or edema. 
The ventricles and sulci are enlarged, compatible global 
parenchymal volume loss.  Periventricular and subcortical white 
matter FLAIR hyperintensities are noted, a nonspecific finding 
that most likely represents the sequelae of chronic small vessel 
ischemic disease. 
The right-sided mastoid air cells are underpneumatized with 
increased 
sclerosis, which may relate to prior surgery or infection.  The 
remainder of the paranasal sinuses, middle ear cavities, and 
mastoid air cells are clear. The orbits are grossly unremarkable 
bilaterally. 
CTA HEAD AND NECK: 
A normal 3 vessel aortic arch is identified.  Mild 
calcifications are seen 
within the proximal right V1 segment.  Additional foci minimal 
calcification are seen within the proximal right V2 segment and 
at the origin of the left V1 segment.  The vertebral arteries 
are patent without high-grade stenosis or 
occlusion. 
The bilateral common carotid arteries are patent.  There is 
bilateral 
tortuosity above the cervical carotid bifurcations (image 32, 
series 601), 
mild calcifications are seen at the bilateral carotid bulbs.  
There is no 
evidence of internal carotid stenosis by NASCET criteria. 
Minimal calcifications are seen in the bilateral cavernous 
internal carotid arteries.  Mild irregular narrowing of the left 
greater than right 
supraclinoid ICA is likely secondary to atherosclerotic disease. 
 Mild 
narrowing within the proximal left M1 segment likely also 
reflects 
atherosclerotic disease. 
Allowing for this, the intracranial vasculature is grossly 
patent without 
high-grade stenosis, occlusion, or aneurysm greater than 3 mm. 
The dural 
venous sinuses are patent. 
OTHER: 
Mild dependent atelectasis is seen bilaterally.  The thyroid 
gland is mildly heterogeneous, with a 1.2 cm nodule in the 
inferior right pole.  There is no cervical lymphadenopathy by CT 
size criteria.  Multilevel degenerative changes are visualized 
throughout the cervical spine consistent with anterior and 
posterior spondylosis, sclerotic changes, more significant from 
C3-C4 through C6-C7 levels.  Diffuse osteopenic changes are 
visualized in the upper thoracic spine with calcification of the 
anterior longitudinal ligament, partially 
evaluated in this examination. 
IMPRESSION: 
1. No evidence for acute intracranial hemorrhage or large 
vascular territorial infarction. 
2. Moderate global parenchymal volume loss and evidence of 
chronic small 
vessel ischemic disease. 
3. Focal sites of sclerosis within the intracranial and cervical 
vasculature, as detailed above, without high-grade stenosis, 
occlusion, or aneurysm greater than 3 mm. 
4. Heterogeneous thyroid gland with a 1.2 cm right thyroid 
nodule. 
5. Multilevel degenerative changes throughout the cervical 
spine. 
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended. 
Absent suspicious imaging features, unless there is additional 
clinical 
concern, ___ College of Radiology guidelines do not 
recommend further 
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under age ___ or less than 1.5 cm in patients age ___ or 
___. 

CT HEAD W/O CONTRAST ___:
FINDINGS:  
Study is mildly degraded by motion.  There is no evidence of 
acute infarction, hemorrhage, edema, or mass.  There is 
prominence of the ventricles and sulci suggestive of 
involutional changes.  Periventricular and subcortical white 
matter hypodensities are nonspecific, but are likely sequela of 
chronic small vessel ischemic disease.  Atherosclerotic vascular 
calcifications are noted of bilateral cavernous portions of 
internal carotid arteries. 
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized portion of the orbits are unremarkable. 
IMPRESSION: 
1. No evidence of acute hemorrhage or mass effect. 
2. Please note MRI of the brain is more sensitive for the 
detection of acute infarct. 
3. Atrophy, probable small vessel ischemic changes, and 
atherosclerotic 
vascular disease as described. 

 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with 
a history of mild cognitive impairment, ___ disease, 
hypertension, and gait unsteadiness with walker dependence who 
presented with a one-day history of right face and arm weakness. 
Her history was notable for a somewhat insidious onset of 
symptoms over the course of the day on ___, with worse right 
arm weakness and right facial droop noted by staff at her ___ 
living ___ in the later part of the day.  At baseline, she 
has difficulty with ambulation. On examination, the patient had 
mild right hemiparesis, with mild right lower facial weakness 
and right arm upper motor neuron pattern of weakness.  There was 
no focal weakness noted in the right leg and with 
confrontational testing, and no evidence of aphasia or cortical 
sensory loss. Initial non-contrast head CT at presentation 
showed severe global atrophy and a small hypodensity adjacent to 
the occipital horn of the left lateral ventricle, possibly 
representing a lacunar infarct. The patient refused an MRI, so a 
repeat noncontrast head CT was performed that redemonstrated the 
small hypodensity. Because of this, aspirin 81mg was stopped, 
and she was started on Plavix 75mg daily. She was also started 
on atorvastatin 40mg daily for elevated cholesterol. 

In addition, the patient described symptoms of urgency and 
frequency of urination, but no dysuria, numbness, or tingling. 
Her urinanalysis at the time of presentation showed few 
bacteria, trace protein, and small leukocytes. She was started 
on a 3-day course of Bactrim (Day 1 = the evening of ___ 
for an uncomplicated urinary tract infection. Her last day of 
Bactrim should be ___ in the morning. 

We recommended that she see her primary care physician for 
ongoing management of her ___ disease, chronic walker 
dependence, and limited right shoulder range of motion and pain.

Medicine changes:
- Start atorvastatin 40mg daily
- Start clopidogrel 75mg daily 
- Continue Bactrim DS 1 tab bid x 3 days (Day 1 = ___ End 
date = ___
- stop aspirin 81mg daily

Transitional issues:
- Blood pressure evaluation and medication management to reduce 
risk of future TIA's/stroke
- Evaluation of right shoulder limited range of motion and pain
- Evaluate tolerance to newly started atorvastatin (40mg daily)
- Follow up for symptomatic cystitis s/p antibiotic treatment 
(Day 1 = ___ End date = ___
- Physical therapy and safety evaluation is needed to improve 
function 
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 125) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. melatonin 1 mg oral QHS:PRN insomnia 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. Bisacodyl 10 mg PR QHS:PRN constipation 
6. amLODIPine 5 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Hydrocortisone Cream 1% 1 Appl TP QHS 
9. Hemorrhoidal Suppository ___ID PRN hemorrhoids 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Clopidogrel 75 mg PO DAILY  
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  amLODIPine 5 mg PO DAILY  
6.  Bisacodyl 10 mg PR QHS:PRN constipation  
7.  Carbidopa-Levodopa (___) 1 TAB PO TID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Hemorrhoidal Suppository ___ID PRN hemorrhoids  
10.  Hydrocortisone Cream 1% 1 Appl TP QHS  
11.  melatonin 1 mg oral QHS:PRN insomnia  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
Transient ischemic attack 
Urinary tract infection 
 
SECONDARY DIAGNOSES: 
Hypertension 
Hyperlipidemia 
___ disease 
Mild cognitive impairment 
Chronic walker dependence 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
  
 You were hospitalized due to symptoms of right sided weakness 
resulting from an temporary diminished flow of blood to the 
brain thereby reducing oxygen and nutrients to the brain. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms. Stroke can have many different causes, so we assessed 
you for medical conditions that might raise your risk of having 
stroke. Some of these risk factors include high blood pressure 
and high lipid levels. We have prescribed a two new medications, 
called atorvastatin and plavix, to help reduce the risk of 
future stroke. Please also continue to take the medication 
amlodipine, which helps lower blood pressure.

 We also found that you were having symptoms of a urinary tract 
infection, and gave you an antibiotic medication called Bactrim 
to treat this. Please continue to take Bactrim for a total of 3 
days. Please take your other medications as prescribed. Please 
also follow up with Neurology and your primary care physician as 
listed below.
  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body

Thank you for allowing us to care for you.

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___